US06677324B1
g) 7α-(5-Acetoxypentyl)-11-fluoro-3-hydroxyoestra-1,3,5(10)-trien-17-one
18.6 g of copper(II) bromide and 3.6 g of lithium bromide are added at 80° C. to 16.5 g of 7α-(5-acetoxy-pentyl)-11β-fluorooestr-4-ene-3,17-dione in 190 ml of acetonitrile. After 15 min, the reaction mixture is stirred into ice-water containing sodium hydrogen-carbonate. The precipitated product is filtered off with suction, dissolved in ethyl acetate, and the solution is washed with water, dried and concentrated in vacuo. After chromatographing the crude product on silica gel using a hexane-ethyl acetate gradient, 8.5 g of 7α-(5-acetoxypentyl)-11β-fluoro-3-hydroxyoestra-1,3,5(10)-trien-17-one are obtained as a foam.

reactant | lithium bromide | 3.6 g | [Br-].[Li+]
reactant | 7α-(5-acetoxy-pentyl)-11β-fluorooestr-4-ene-3,17-dione | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2[C@H]2CCC(C=C2C1)=O)F)=O | C25H35FO4
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 190 ml | C(C)#N | C2H3N
catalyst | copper(II) bromide | 18.6 g | [Cu](Br)Br
product | 7α-(5-Acetoxypentyl)-11-fluoro-3-hydroxyoestra-1,3,5(10)-trien-17-one | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC([C@@H]2C=2C=CC(=CC2C1)O)F)=O | C25H33FO4
